US07223833B1
A. N-Boc sarcosylglycine methyl ester
To a suspension of Boc-sarcosine (9.0 g, 048 mol) in 70 ml of CH2Cl2 at −20° C. was added isobutyl chlorofomate (7.1 g, 0.052 mol) and N-Methylmorpholine (4.8 g, 0.047 mol). After 2 min glycine methyl ester, hydrochloride (7.19g, 0.057 mol) and N-methylmorpholine (5.76g, 0.057 mol) in CH2Cl2 (60 ml) was added. The reaction was stirred at −10° C. for 1 h and allowed to warm to room temperature. After 4h at room temperature, the reaction was filtered and washed with salt. NaHCO3 (100 ml), 1N NaHCO3 100 ml, twice with 1N KHSO4 (100 ml), water (100 ml) and brine (70 ml). The organic phase was dried with Na2SO4 and evaporated. The yield of Boc sarcosyl-glycine methyl ester was 89%.

reactant | Boc-sarcosine | 9.0 g | C(=O)(OC(C)(C)C)N(C)CC(=O)O | C8H15NO4
reactant | N-Methylmorpholine | 0.047 mol, 4.8 g | CN1CCOCC1 | C5H11NO
reactant | glycine methyl ester, hydrochloride | 0.057 mol, 7.19g | Cl.COC(CN)=O
reactant | N-methylmorpholine | 0.057 mol, 5.76g | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | N-Boc sarcosylglycine methyl ester | COC(CNC(CN(C)C(=O)OC(C)(C)C)=O)=O | C11H20N2O5
